US05849732
To a mixture of 680 mg of 2-{[4-(4-nitrophenyl)piperazin-1-yl]carbonylamino}-4-methoxy-6-tert-butylphenol hydrochloride, 30 ml of methanol and 30 ml of dioxane was added 100 mg of 10% palladium-carbon (Pd-C). The mixture was subjected to catalytic reduction for 4 hours by using a Parr's reduction apparatus. After removing the catalyst by filtration, the filtrate was condensed. The residue was dissolved in 10 ml of dichloromethane, and after adding 1 ml of 4N hydrogen chloride-dioxane solution, the mixture was treated with an activated charcoal. The treated mixture was evaporated to dryness under reduced pressure to give 210 mg of 2-{[4-(4-aminophenyl)piperazin-1-yl]carbonylamino}-4-methoxy-6-tert-butylphenol dihydrochloride as powder.

reactant | 2-{[4-(4-nitrophenyl)piperazin-1-yl]carbonylamino}-4-methoxy-6-tert-butylphenol hydrochloride | 680 mg | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C(=O)NC1=C(C(=CC(=C1)OC)C(C)(C)C)O
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrogen chloride dioxane | 4N, 1 ml | Cl.O1CCOCC1
reactant | charcoal | C | CH4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-{[4-(4-aminophenyl)piperazin-1-yl]carbonylamino}-4-methoxy-6-tert-butylphenol dihydrochloride | 210 mg | Cl.Cl.NC1=CC=C(C=C1)N1CCN(CC1)C(=O)NC1=C(C(=CC(=C1)OC)C(C)(C)C)O | InChI=1S/C22H30N4O3.2ClH/c1-22(2,3)18-13-17(29-4)14-19(20(18)27)24-21(28)26-11-9-25(10-12-26)16-7-5-15(23)6-8-16;;/h5-8,13-14,27H,9-12,23H2,1-4H3,(H,24,28);2*1H
